US07304081B2
Step 3. 1-tert-butyl 2-methyl(2S)-4-hydroxy-4-phenylpyrrolidine-1,2-dicarboxylate
Phenylmagnesium bromide in ether (3.00M, 0.400 mL) was added to a solution of 1-tert-butyl 2-methyl(2S)-4-oxopyrrolidine-1,2-dicarboxylate (243.0 mg, 0.0009989 mol) in tetrahydrofuran (5.00 mL, 0.0616 mol) at −40° C. The reaction mixture was stirred at between −40° C. and −10° C. for 2 h and then was quenched with amonium chloride solution (5 mL). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (2×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was used directly in the next step without further purification.

reactant | Phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1-tert-butyl 2-methyl(2S)-4-oxopyrrolidine-1,2-dicarboxylate | 0.0009989 mol, 243.0 mg | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | tetrahydrofuran | 0.0616 mol, 5.00 mL | O1CCCC1 | C4H8O
solvent | ether | 3.00M, 0.400 mL | CCOCC | C4H10O
product | 1-tert-butyl 2-methyl(2S)-4-hydroxy-4-phenylpyrrolidine-1,2-dicarboxylate | OC1(C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)C1=CC=CC=C1 | C17H23NO5
